US07238716B2
To a mixture of 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole (4.52 g), methyl 5-hydroxy-3-pyridinecarboxylate (2.0 g), and N,N-dimethylformamide (30 mL) was added sodium hydride (60%, oil, 0.58 g) under ice-cooling, and the mixture was stirred at room temperature for 3 hrs. The reaction mixture was poured into water, and the precipitated crystals were collected by filtration. The crystals were subjected to silica gel column chromatography to give crystals (2.41 g, 0.43%) of methyl 5-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridinecarboxylate from a fraction eluted with ethyl acetate-hexane (1:1, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 138-139° C.

reactant | 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole | 4.52 g | ClCC1=CC=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C18H16ClNO2
reactant | methyl 5-hydroxy-3-pyridinecarboxylate | 2.0 g | OC=1C=C(C=NC1)C(=O)OC | C7H7NO3
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.58 g | [H-].[Na+]
solvent | water | O | H2O
product | methyl 5-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridinecarboxylate | 2.41 g, 0.43% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC=2C=C(C=NC2)C(=O)OC)C=C1 | C25H22N2O5
